US07179934B2
(4S,5R)-3-((2R,3R)-2,3-Dimethyl-hexanoyl)-4,5-diphenyl-oxazolidin-2-one
A 22 L 4-neck round bottom flask was equipped with an addition funnel, mechanical stirrer, and nitrogen inlet. The system was purged with nitrogen for 1 hour. THF (6 L) were charged to the flask followed by 1236 g (6.01 mol) of CuBr.S(CH3)2 and 364 g (8.59 mol) of LiCl. The reaction was stirred for 15 minutes at ambient temperature. The solution was cooled to −35° C. and 3.96 L (11.88 mol) of a 3M solution of CH3MgCl in THF was charged at a rate as to keep the internal temperature of the reaction mixture below −25° C. The reaction was stirred for 1 hour after the addition of CH3MgCl was complete. (4S,5R)-3-((E)-2-Methyl-hex-2-enoyl)-4,5-diphenyl-oxazolidin-2-one (1.00 Kg, 2.86 mol) was added as a solid in one portion and the reaction was stirred at −30° C. for 4 hours. The reaction mixture was transferred over a 2 hour period into another 22 L flask equipped with a mechanical stirrer, transfer line, vacuum line, and containing 4 L of 1:1 acetic acid:THF solution cooled in an ice-water bath. The quenched solution was stirred for 30 minutes and then diluted with 4 L of 2M NH4OH in saturated aqueous NH4Cl and 2 L of water. The biphasic mixture was stirred for 15 minutes and the phases separated. The organic phase was washed 4× with 4 L aliquots of the 2M NH4OH solution. No more blue color was observed in the washes or the organic phase so the organic phase was diluted with 8 L of water and the THF was distilled off until the internal temperature of the distillation pot reached 95° C. The suspension was cooled to ambient temperature and filtered. The solids were washed with 4 L of water and suction dried to give 868.2 g of an off white solid. This material was recrystallized from 2 L of 95:5 heptane:toluene with a cooling rate of 5° C. per hour to provide 317.25 g of the titled compound as a white solid: 1H NMR (CDCl3) 7.12–6.85 (m, 10H), 5.90 (d, 1H, J=8.06 Hz), 5.72 (d, 1H, J=7.81), 3.83–3.76 (m, 1H), 1.95–1.89 (m, 1H), 1.35–1.31 (m, 1H). 1.11 (d, 3H, J=6.84), 1.10–0.95 (m, 3H), 0.92 (d, 3H, J=6.59), 0.76 (t, 3H, J=7.20) MS (APCl) M+1=366.2.

reactant | S(CH3)2 | S(C)C | C2H6S
reactant | LiCl | 8.59 mol, 364 g | [Li+].[Cl-]
reactant | CH3MgCl | C[Mg]Cl
reactant | (4S,5R)-3-((E)-2-Methyl-hex-2-enoyl)-4,5-diphenyl-oxazolidin-2-one | 2.86 mol, 1.00 Kg | C/C(/C(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O)=C\CCC | C22H23NO3
solvent | THF | C1CCOC1 | C4H8O
solvent | NH4OH | 2M, 4 L | [NH4+].[OH-]
solvent | NH4Cl | [NH4+].[Cl-]
solvent | water | 2 L | O | H2O
solvent | acetic acid | 4 L | C(C)(=O)O | C2H4O2
product | (4S,5R)-3-((2R,3R)-2,3-Dimethyl-hexanoyl)-4,5-diphenyl-oxazolidin-2-one | 317.25 g | C[C@@H](C(=O)N1C(O[C@@H]([C@@H]1C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H](CCC)C | C23H27NO3
